US04247692
To a solution of 18.4 g (0.1 mole) of cyanuric chloride in 90 ml of acetone was added dropwise a solution of 19.0 g (0.2 moles) of phenol and 8.0 g (0.2 moles) of sodium hydroxide in 75 ml of water at a reaction temperature in the range of 15° to 20° C. After 41/2 hours the precipitate formed was removed by suction, washed with water and dried (with Mg SO4). Purification by recrystallization from n-heptane gave 24.7 g of 2,4-diphenoxy-6-chloro-s-triazine in 82% yield. The melting point was 119°-121° C.

reactant | cyanuric chloride | 0.1 mole, 18.4 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | phenol | 0.2 moles, 19.0 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | 0.2 moles, 8.0 g | [OH-].[Na+]
solvent | acetone | 90 ml | CC(=O)C | C3H6O
solvent | water | 75 ml | O | H2O
product | 2,4-diphenoxy-6-chloro-s-triazine | 24.7 g, 82% yield | O(C1=CC=CC=C1)C1=NC(=NC(=N1)OC1=CC=CC=C1)Cl | C15H10ClN3O2
